US08357703B2
6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-cyclopropyl-nicotinamide
As described for example 31e, 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (708 mg, 1.5 mmol) was converted, using cyclopropylamine instead of isopropylamine, to the title compound (219 mg, 41%) which was obtained as a white solid after purification by chromatography (silica, 0 to 60% ethyl acetate in heptane). MS: m/e=356.3 [M+H]+.

reactant | 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.5 mmol, 708 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C18H22N2O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-cyclopropyl-nicotinamide | 219 mg, 41% | C1(CCCCC1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CC2)C=C1)C | C20H25N3O3
